US07728022B2
Intermediate 2 (2 g, 8.44 mmol) was dissolved in dioxane (50 ml) and triethylamine (1.18 ml, 8.44 mmol) and 2,4-dichlorobenzoyl chloride (1.76 g, 844 mmol) added. The reaction mixture was stirred at reflux for 16 h. The mixture was then allowed to cool and diluted with ethyl acetate and washed with saturated sodium bicarbonate and then brine. The organics were dried over sodium sulfate and purified by column chromatography to give the desired ethyl [3-(2,4-dichlorobenzoyl)-2-oxocyclohexyl]acetate (220 mg) as a colourless oil. 1H NMR δ (ppm)(CDCl3): 7.36 (1H, d, J=2.0 Hz), 7.23, (1 H, dd, J=8.3, 2.0 Hz), 7.12 (1 H, d, J=8.3 Hz), 4.13-4.07 (2 H, m), 2.93-2.84 (1 H, m), 2.78 (1 H, dd, J=16.1, 5.9 Hz), 2.45 (1 H, dd, J=16.1, 8.3 Hz), 2.11-1.84 (4 H, m), 1.70-1.62 (1 H, m), 1.51-1.40 (2 H, m), 1.20 (3 H, t, J=7.0 Hz).

reactant | triethylamine | 8.44 mmol, 1.18 ml | C(C)N(CC)CC | C6H15N
reactant | 2,4-dichlorobenzoyl chloride | 844 mmol, 1.76 g | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | ethyl [3-(2,4-dichlorobenzoyl)-2-oxocyclohexyl]acetate | 220 mg | ClC1=C(C(=O)C2C(C(CCC2)CC(=O)OCC)=O)C=CC(=C1)Cl | C17H18Cl2O4
